US07893093B2
Clean sodium metal (0.205 g, 8.95 mmol) was added, in portions, to anhydrous methanol (20 mL) in a thick walled tube. The suspension was stirred under anhydrous nitrogen until all the metal had dissolved, then pyridine-2-thiol (1.0 g, 8.95 mmol) was added. After stirring for 20 min, (2-oxotetrahydro-furan-3(R)-yl)-carbamic acid tert-butyl ester (1.8 g, 8.95 mmol) was added as a solid and the tube was capped and heated to 100° C. for 16 h. The reaction mixture was concentrated, then purified via flash chromatography (MeOH, CH2Cl2 as eluent) to give 2(S)-tert-butoxycarbonylamino-4-(pyridin-2-ylsulfanyl)butyric acid (0.75 g) as a clear oil.

reactant | sodium | 8.95 mmol, 0.205 g | [Na] | Na
reactant | pyridine-2-thiol | 8.95 mmol, 1.0 g | N1=C(C=CC=C1)S | C5H5NS
reactant | (2-oxotetrahydro-furan-3(R)-yl)-carbamic acid tert-butyl ester | 8.95 mmol, 1.8 g | C(C)(C)(C)OC(N[C@H]1C(OCC1)=O)=O | C9H15NO4
solvent | methanol | 20 mL | CO | CH4O
product | 2(S)-tert-butoxycarbonylamino-4-(pyridin-2-ylsulfanyl)butyric acid | 0.75 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCSC1=NC=CC=C1 | C14H20N2O4S
